US07253196B2
To a solution of 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-bromoethyl)thiazol-4(5H)-one (134 mg, 0.5 mmol) in THF (1 mL) at −78° C. was added LDA (2.0 N, 1.25 ml). After 5 min, acetone (500 uL) was added, and the reaction mixture was stirred for 3 h at −78° C. The resulting reaction mixture was poured into a sat'd NaH2PO4 and extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified through flash chromatography (4:1; Hexane:EtOAc) to give 2-((1S,2S,4R)-bicyclo[2.2.1]hept-2-ylamino)-6,6-dimethyl-7-oxa-1-thia-3-azaspiro[4.4]non-2-en-4-one as a white solid. (MS (ES+): 295 (M+H)+), and 5-((1S,2S,4R)-bicyclo[2.2.1]hept-2-ylamino)-4-thia-6-azaspiro[2.4]hept-5-en-7-one as a white solid. MS (ES+): 237 (M+H)+.

reactant | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-bromoethyl)thiazol-4(5H)-one | 0.5 mmol, 134 mg | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)CCBr | C12H17BrN2OS
reactant | LDA | 2.0 N, 1.25 ml | [Li+].CC(C)[N-]C(C)C
reactant | acetone | 500 uL | CC(=O)C | C3H6O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-((1S,2S,4R)-bicyclo[2.2.1]hept-2-ylamino)-6,6-dimethyl-7-oxa-1-thia-3-azaspiro[4.4]non-2-en-4-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC1(C(N2)=O)C(OCC1)(C)C | C15H22N2O2S
